US07429605B2
iii) 2-Chloromethyl-6-(3-chloro-phenyl)-pyridine
433 mg (0.264 ml, 3.64 mmol) thionyl chloride were added drop by drop at 0° C. to a solution of 0.2 ml N,N-dimethylformamide (DMF) and 400 mg (1.82 mmol) [6-(3-Chloro-phenyl)-pyridin-2-yl]-methanol in 25 ml dichloromethane and stirred for 3 h at 0° C. The mixture was poured on ice/sodium bicarbonate solution and the organic phase separated. The water phase is extracted with dichloromethane. The combined organic phases were washed with water, dried (sodium sulphate), evaporated and the obtained material (409 mg, 94%) used without further purification.

reactant | thionyl chloride | 3.64 mmol, 0.264 ml, 433 mg | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
reactant | [6-(3-Chloro-phenyl)-pyridin-2-yl]-methanol | 1.82 mmol, 400 mg | ClC=1C=C(C=CC1)C1=CC=CC(=N1)CO | C12H10ClNO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-Chloromethyl-6-(3-chloro-phenyl)-pyridine | ClCC1=NC(=CC=C1)C1=CC(=CC=C1)Cl | C12H9Cl2N
